US04219559
To a stirred and cooled (below 10° C.) mixture of 5.04 parts of carbon disulfide, 2.06 parts of N,N'-methanetetraylbis[cyclohexamine] and 45 parts of tetrahydrofuran is added dropwise a solution of 3.7 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine in tetrahydrofuran. Upon completion, stirring is continued overnight while the mixture is allowed to reach room temperature. The reaction mixture is evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 4 parts (100%) of 1-(4-fluorophenylmethyl)-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine as a residue.

reactant | carbon disulfide | C(=S)=S | CS2
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-fluorophenylmethyl)-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | 100% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN=C=S | C22H24FN5S
